US06100233
Preparation of 3,7-dimethyl-1,6-octadien-3-yl 3-(β-naphthyl)-3-oxo-2-methylpropionate
Sodium hydride (3.92 g, 0.098 mol, 60%) and tetrahydrofuran (100 mL) are placed into a 250 mL three-necked round-bottomed flask fitted with a magnetic stirrer, ice bath, addition funnel, internal thermometer and argon inlet. The contents of the flask are cooled to 0° C. 3,7-Dimethyl-1,6-octadien-3-yl 3-(β-naphthyl)-3-oxo-propionate (15.28 g, 0.044 mol) dissolved in 50 mL of tetrahydrofuran is added dropwise to the flask over 30 min. During addition, the mixture evolves gas. After stirring for 1 h, methyl iodide (10.65 g, 0.075 mol) is added to the reaction mixture. Stirring continues for 2 h at 0° C. and then at room temperature for 18 h. The mixture is neutralized with 20% HCl and extracted with diethyl ether. The organic layers are washed with saturated NaHCO3 solution, water, dried over MgSO4, filtered, concentrated by rotary evaporation and purified by flash chromatography to yield the desired compound. Structure is confirmed my 1H and 13C NMR.

reactant | Sodium hydride | 0.098 mol, 3.92 g | [H-].[Na+]
reactant | 3,7-Dimethyl-1,6-octadien-3-yl 3-(β-naphthyl)-3-oxo-propionate | 0.044 mol, 15.28 g | C1=C(C=CC2=CC=CC=C12)C(CC(=O)OC(C=C)(CCC=C(C)C)C)=O | C23H26O3
reactant | methyl iodide | 0.075 mol, 10.65 g | CI | CH3I
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 3,7-dimethyl-1,6-octadien-3-yl 3-(β-naphthyl)-3-oxo-2-methylpropionate | C1=C(C=CC2=CC=CC=C12)C(C(C(=O)OC(C=C)(CCC=C(C)C)C)C)=O | C24H28O3
